US04970318
B. 2-(aminoethylthio)-N-(6-phenylbenzothiazol-2-yl)-thiazole-4-carboxamide hydrochloride
In a similar manner were prepared: 2-(aminoethylthio)-N-(5-fluorobenzothiol-2-yl) thiazole-4-carboxamide hydrochloride, m.p. 261-263° C. dec. and 2-(aminoethylthio)-N-(3-methyl-5-fluorobenzothiazol-2-yl)thiazole-4-carboxamide hydrochloride, m.p. 276-277° C. dec.

reactant | 2-(aminoethylthio)-N-(5-fluorobenzothiol-2-yl) thiazole-4-carboxamide hydrochloride | Cl.NCCSC=1SC=C(N1)C(=O)NC=1SC2=C(C1)C=C(C=C2)F
reactant | 2-(aminoethylthio)-N-(3-methyl-5-fluorobenzothiazol-2-yl)thiazole-4-carboxamide hydrochloride | Cl.NCCSC=1SC=C(N1)C(=O)NC1SC2=C(N1C)C=C(C=C2)F
product | 2-(aminoethylthio)-N-(6-phenylbenzothiazol-2-yl)-thiazole-4-carboxamide hydrochloride | Cl.NCCSC=1SC=C(N1)C(=O)NC=1SC2=C(N1)C=CC(=C2)C2=CC=CC=C2 | InChI=1S/C19H16N4OS3.ClH/c20-8-9-25-19-22-15(11-26-19)17(24)23-18-21-14-7-6-13(10-16(14)27-18)12-4-2-1-3-5-12;/h1-7,10-11H,8-9,20H2,(H,21,23,24);1H
